simulator lang=spectre
//************************************************************************************
//************************************************************************************
//** Title:  Resistance.inc
//** Author: Jongyeon Kim, VLSI Research Lab @ UMN
//** Email:  kimx2889@umn.edu
//************************************************************************************
//** The dependence of resistance on  relative angle, temperature, and bias voltage
//** is implemented.
//************************************************************************************

subckt RA (n_plus n_minus Mx My Mz Tmp thi)
parameters lx=65n ly=130n P0=0.715 RA0=5.4 MA=0.0

//*** Spherical coordinate ***

E_thip (thip 0) bsource v=(1-MA)*acos((1-MA)*0.999*v(My)/pow(pow(v(Mx),2)+pow(v(My),2),0.5))
E_thp  (thp 0) bsource v=MA*acos(MA*0.999*v(Mz)/pow(pow(v(My),2)+pow(v(Mz),2),0.5))
E_th   (th 0) bsource v=max(V(thi),min(355/113-V(thi),V(thip)+V(thp)))
E_phi  (phi 0) bsource v=(1-MA)*atan(v(Mx)/v(Mz))+MA*atan(v(My)/v(Mx))

//*** Temp. dependent parameters *******************
parameters asp=2e-5
//*** Rp *******************************************
parameters RA=RA0*1e-12   //$ [ohm*m2]
parameters Rp=RA/(lx*ly)

//*** TMR ******************************************
parameters v0=0.65
E_TMR0 (TMR0 0) bsource v=2*pow(P0,2)*pow((1-asp*pow(v(Tmp),1.5)),2)/(1-pow(P0,2)*pow(1-asp*pow(v(Tmp),1.5),2))*100
E_TMR  (TMR 0)  bsource v=v(TMR0)/(1+pow(((v(n_plus)-v(n_minus))/v0),2))
E_Rap  (Rap 0)  bsource v=(v(TMR)/100+1)*Rp

//*** R(V,Tmp,th) **********************************
R_MTJ (n_plus n_minus) resistor r=(1+cos(v(th)))*(Rp-v(Rap))/2+v(Rap)
E_rmtj (rmtj 0) bsource v=((1+cos(v(th)))*(Rp-v(Rap))/2+v(Rap))

ends RA
